US08304419B2
Step C: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-[(N,N-dimethylglycyl)amino]-1H-indole-2-carboxamide
BOP chloride (0.079 g, 0.309 mmol) was added to a solution of 5-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate (0.060 g, 0.103 mmol), N,N-dimethylglycine (0.011 g, 0.103 mmol) and diisopropylethylamine (0.090 mL, 0.514 mmol) in DMF (1 mL). The mixture was stirred at RT for 1 hr. The reaction mixture was diluted with EtOAc and water. The organic layer was washed with water, dried over sodium sulfate, filtered and concentrated. The residue was triturated with methanol and dried under vacuum to give the title compound (0.016 g, 28%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (br. s., 1H), 9.52 (br. s., 1H), 8.96 (t, 1H), 7.94 (s, 1H), 7.78 (s, 1H), 7.41-7.54 (m, 2H), 7.36 (t, 1H), 7.30 (s, 2H), 7.07 (s, 1H), 4.53 (d, 2H), 2.22 (s, 6H). ES MS: m/z 553 (M).

reactant | BOP chloride | 0.309 mmol, 0.079 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.[Cl-]
reactant | 5-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate | 0.103 mmol, 0.060 g | FC(C(=O)O)(F)F.NC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F
reactant | N,N-dimethylglycine | 0.103 mmol, 0.011 g | CN(CC(=O)O)C | C4H9NO2
reactant | diisopropylethylamine | 0.514 mmol, 0.090 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-[(N,N-dimethylglycyl)amino]-1H-indole-2-carboxamide | 0.016 g, 28% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)NC(CN(C)C)=O)F)OC1=CC(=CC(=C1)C#N)Cl | C27H22Cl2FN5O3
